US05300642
5,5-Bis(4-pyridinylmethyl)-5H-cyclopenta[2,1-b:3,4-b']dipyridine
The title compound was prepared following the procedure of Example 1 from 0.43 g (2.56 mmole) of 4,5-diazafluorene, 0.84 g of 4-picolylchloride hydrochloride, 29.0 mg of benzyltriethylammonium chloride, 3 ml of 50% sodium hydroxide, and 30 ml toluene by reaction at 50° for 6 hrs. The crude product was chromatographed (Ethylacetate/Methanol, 99:1) and recrystallized from isopropyl alcohol. NMR (CDCl3,200 MHz) δ: 3.42(s,4H), 6.52(d,J=5.7 Hz,4H), 7.33(dd,2H), 7.85(d,2H), 8.16(d,J=5.6 Hz,4H), 8.61(d,2H).

reactant | 4,5-diazafluorene | 2.56 mmole, 0.43 g | C1=CC=NC=2C3=NC=CC=C3CC12 | C11H8N2
reactant | 4-picolylchloride hydrochloride | 0.84 g | Cl.N1=CC=C(C=C1)CCl
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | 29.0 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 5,5-Bis(4-pyridinylmethyl)-5H-cyclopenta[2,1-b:3,4-b']dipyridine | N1=CC=C(C=C1)CC1(C=2C(=NC=CC2)C2=NC=CC=C21)CC2=CC=NC=C2 | C23H18N4
